US04219462
To a solution of ethyl α-azido-α-methyl-4-benzyloxycarbonyl-5,5-dimethyl-2-thiazolidine acetate (3.92 g.) in ethanol (20 ml.) is slowly added 20 ml. of 0.5 N sodium hydroxide solution. The solution is stirred at room temperature overnight, then acidified with 20 ml. of 0.5 N hydrochloric acid. The product is extracted into ethyl acetate and the solution dried over anhydrous sodium sulfate and evaporated leaving α-methyl-α-azido-4-benzyloxycarbonyl-5,5-dimethyl-2-thiazolidineacetic acid.

reactant | ethyl α-azido-α-methyl-4-benzyloxycarbonyl-5,5-dimethyl-2-thiazolidine acetate | 3.92 g | N(=[N+]=[N-])C(C(=O)OCC)(C1SC(C(N1)C(=O)OCC1=CC=CC=C1)(C)C)C | C18H24N4O4S
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-methyl-α-azido-4-benzyloxycarbonyl-5,5-dimethyl-2-thiazolidineacetic acid | CC(C(=O)O)(C1SC(C(N1)C(=O)OCC1=CC=CC=C1)(C)C)N=[N+]=[N-] | C16H20N4O4S
